US06809110B2
In analogy to the procedure described in example 1 d], [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester (example 7 a]) was reacted with (4-methyl-2-phenyl-thiazol-5-yl)-methanol in tetrahydrofuran in the presence of triphenylphosphine and DEAD (diethyl azodicarboxylate) to yield [rac]-2-ethoxy-3-[3-fluoro-4-(4-methyl-2-phenyl-thiazol-5-ylmethoxy)-phenyl]-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-2-ethoxy-3-[3-fluoro-4-(4-methyl-2-phenyl-thiazol-5-ylmethoxy)-phenyl]-propionic acid as a light yellow solid.

reactant | [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)F)OCC)=O | C13H17FO4
reactant | (4-methyl-2-phenyl-thiazol-5-yl)-methanol | CC=1N=C(SC1CO)C1=CC=CC=C1 | C11H11NOS
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [rac]-2-ethoxy-3-[3-fluoro-4-(4-methyl-2-phenyl-thiazol-5-ylmethoxy)-phenyl]-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCC1=C(N=C(S1)C1=CC=CC=C1)C)F)OCC)=O | C24H26FNO4S
